US04609396
N,N-Diethyl-2-[4-(2-quinoxalinyloxy)phenoxy]propanamide
The title compound can be prepared by interaction of 2-[4-(2-quinoxalinyloxy)phenoxy]propionic acid with thionyl chloride in a suitable solvent such as chlorobutane. Add a solution of 3.3 g (0.01 mole) 2-[4-(2-quinoxalinyloxy)phenoxy]propionyl chloride in 30 cc methylene chloride to a cold (5° C.) solution of 1.8 g (0.025 mole) diethylamine in 30 cc methylene chloride. Stir the mixture at room temperature overnight. Wash the methylene chloride solution with water and dry over magnesium sulfate. Remove the methylene chloride under vacuum to yield N,N-diethyl-2-[4-(quinoxalinyloxy)phenoxy]propanamide.

reactant | 2-[4-(2-quinoxalinyloxy)phenoxy]propionic acid | N1=C(C=NC2=CC=CC=C12)OC1=CC=C(OC(C(=O)O)C)C=C1 | C17H14N2O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chlorobutane | ClCCCC | C4H9Cl
product | N,N-Diethyl-2-[4-(2-quinoxalinyloxy)phenoxy]propanamide | C(C)N(C(C(C)OC1=CC=C(C=C1)OC1=NC2=CC=CC=C2N=C1)=O)CC | C21H23N3O3
